US06528525B1
2-(4-isopropylphenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid (exemplification No. 7-35 compound)
In a similar manner to that described in Example 2, ethyl 2-(4-isopropylphenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (8.38 g), which is the product of Example 9, was reacted with aqueous sodium hydroxide solution (1N, 30.32 ml) and the reaction mixture was treated to give the title compound (7.95 g) as a white powder.

reactant | ethyl 2-(4-isopropylphenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 8.38 g | C(C)(C)C1=CC=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=C1 | C34H36N2O5
reactant | sodium hydroxide | 1N, 30.32 ml | [OH-].[Na+]
product | 2-(4-isopropylphenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid | 7.95 g | C(C)(C)C1=CC=C(OC(C(=O)O)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=C1 | C32H32N2O5
